US06353006B1
2-Hydroxyethylamine was reacted with cyclobutylmethyl bromide according to Method B2a to give N-cyclobutylmethyl-N-(2-hydroxyethyl)amine. The alcohol was reacted with SOCl2 according to Method B7c to give N-cyclobutylmethyl-N-(2-chloroethyl)ammonium chloride. The chloroethylamine was reacted with 2,2-dichlorophenyl isothiocyanate to give 2-(2,2-dichlorophenylimino)-3-(cyclobutylmethyl)-1,3-thiazolidine.

reactant | 2-Hydroxyethylamine | OCCN | C2H7NO
reactant | cyclobutylmethyl bromide | C1(CCC1)CBr | C5H9Br
product | N-cyclobutylmethyl-N-(2-hydroxyethyl)amine | C1(CCC1)CNCCO | C7H15NO
